US04785004
(b) 1,2-epoxy-1-(4-nonylphenyl)-hexane and separation into the individual cis-[1(RS),2(SR)-] and trans- [1(RS),2(RS)-]-isomers
6.76 g of m-chloroperbenzoic acid (90% content) in 100 ml of dichloromethane are added to a solution of 6.32 g of 1-(4-nonylphenyl)-hex-1-ene (mixture of cis- and trans-isomers) from the preceding stage in 150 ml of dichloromethane while cooling to 0°-5°, and the whole is stirred for 20 hours at 20°. The reaction mixture is washed in succession with 10% strength (w/v) sodium sulphite solution, 5% strength (w/v) sodium carbonate solution and 3 portions of water, dried over sodium sulphate and concentrated by evaporation. Chromatography of the residue on silica gel with hexane/ethyl acetate (19:1) yields in succession the trans- [1(RS),2(RS)-] and the cis-[1(RS),2(SR)-]-isomer in the form of colourless oils.

reactant | m-chloroperbenzoic acid | 6.76 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-(4-nonylphenyl)-hex-1-ene | 6.32 g | C(CCCCCCCC)C1=CC=C(C=C1)C=CCCCC | C21H34
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1,2-epoxy-1-(4-nonylphenyl)-hexane | O1C(C1CCCC)C1=CC=C(C=C1)CCCCCCCCC | C21H34O
